US08623889B2
To a flask containing boron trifluoride etherate (0.35 mL, 2.8 mmol) at −15° C. was added a solution of 5-bromo-4-methylpyridin-3-amine (249.0 mg, 1.331 mmol) in 1,2-dimethoxyethane (2.0 mL, 19 mmol). Tert-butyl nitrite (0.20 mL, 1.7 mmol) was then added dropwise and the reaction mixture stirred at −15° C. for one hour. 3 mL pentane was then added and the solid material collected by vacuum filtration. The solid material was dissolved in acetic anhydride (2.0 mL, 21 mmol) and stirred at 100° C. for one hour. The solvent was evaporated in vacuo, and the residue then suspended in 2M aqueous Na2CO3 and extracted twice with dichloromethane. The combined organic extracts were dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (24 g silica, solvent gradient: 0-40% ethyl acetate in heptanes) to yield 117.7 mg (38%) of 5-bromo-4-methylpyridin-3-yl acetate. LCMS (ESI): M+H=230.2; 1H NMR (400 MHz, DMSO-d6) δ 8.61 (s, 1H), 8.35 (s, 1H), 2.37 (s, 3H), 2.23 (s, 3H).

reactant | boron trifluoride etherate | 2.8 mmol, 0.35 mL | B(F)(F)F.CCOCC
reactant | 5-bromo-4-methylpyridin-3-amine | 1.331 mmol, 249.0 mg | BrC=1C(=C(C=NC1)N)C | C6H7BrN2
reactant | 1,2-dimethoxyethane | 19 mmol, 2.0 mL | COCCOC | C4H10O2
reactant | Tert-butyl nitrite | 1.7 mmol, 0.20 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | acetic anhydride | 21 mmol, 2.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pentane | 3 mL | CCCCC | C5H12
product | 5-bromo-4-methylpyridin-3-yl acetate | 117.7 mg, 38% | C(C)(=O)OC=1C=NC=C(C1C)Br | C8H8BrNO2
